US04163801
3,5-Dichloro-2-hydroxyacetophenone (40 g) was treated in ethanol with sodium borohydride (4 g). The solid reaction product was recrystallized from benzene to give 2,4-dichloro-6-(1'-hydroxy ethyl) phenol (32 g, m.p. 70°).

reactant | 3,5-Dichloro-2-hydroxyacetophenone | 40 g | CC(=O)C1=CC(=CC(=C1O)Cl)Cl | C8H6Cl2O2
reactant | sodium borohydride | 4 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dichloro-6-(1'-hydroxy ethyl) phenol | 32 g | ClC1=C(C(=CC(=C1)Cl)C(C)O)O | C8H8Cl2O2
